US05028738
A 3N aqueous solution (0.50 ml) of sodium hydroxide and 2.0 ml of tetrahydrofuran were added to 0.205 g (0.76 mmoles) of sodium 2-oxo-3-phenylnonanoate, and the mixture was stirred until a completely uniform solution formed. Then, 0.09 ml (1.8 mmoles) of methyl iodide and 20 mg of triethylbenzylammonium chloride were added, and the mixture reacted at room temperature for 23 hours. The reaction mixture was acidified with 1N hydrochloric acid, and extracted with ether. The ether layer was dried over magnesium sulfate. The drying reagent was separated by filtration, and the solvent was evaporated. The NMR spectral analysis of the resulting oily product led to the determination that the desired 2-oxo-3-methyl-3-phenylnonanoic acid formed in a yield of 52%. Then, 1.0 ml of a 1N aqueous solution of sodium hydroxide was added to this product, and the mixture was concentrated under reduced pressure. Ether was added, and the precipitated white solid was isolated by filtration to give sodium 2-oxo-3-methyl- 3-phenylnonanoate (0.065 g; 0.229 mmole) in a yield of 58 %.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium 2-oxo-3-phenylnonanoate | 0.76 mmoles, 0.205 g | O=C(C(=O)[O-])C(CCCCCC)C1=CC=CC=C1.[Na+]
reactant | methyl iodide | 1.8 mmoles, 0.09 ml | CI | CH3I
reactant | hydrochloric acid | 1N | Cl | ClH
catalyst | triethylbenzylammonium chloride | 20 mg | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | tetrahydrofuran | 2.0 ml | O1CCCC1 | C4H8O
product | sodium 2-oxo-3-methyl- 3-phenylnonanoate | 0.229 mmole, 0.065 g, yield of 58 % | O=C(C(=O)[O-])C(CCCCCC)(C1=CC=CC=C1)C.[Na+] | InChI=1S/C16H22O3.Na/c1-3-4-5-9-12-16(2,14(17)15(18)19)13-10-7-6-8-11-13;/h6-8,10-11H,3-5,9,12H2,1-2H3,(H,18,19);/q;+1/p-1
